US07247687B2
A mixture of 2-pyridine-carboxaldehyde (10 ml, 0.1 mole), 2,6-dimethylaniline (12.9 ml, 0.1 mole), 3 drops of formic acid and 30 ml methanol was stirred for five hours. The methanol was removed under vacuum. An oil-like residue was recrystallized from n-hexane. 2-(N-(2,6-dimethylphenyl)-iminomethyl)-pyridine was isolated as yellow crystals. Yield: 13.6 g (62%). 1H NMR (200 MHz; CDCl3; δ, ppm; J, Hz): 2.17 s (6H, CH3), 6.94-7.12 m (3H, C6H3), 7.39 d,d,d (1H, H(5) 3J4,5=7.5, 3J5,6=4.9, 4J3,5=1.3); 7.83 t,d,d (1H, H(4) 3J=7.7, 4J4,6=1.8, 5J=0.6); 8.28 d,t (1H, H(3) 3J3,4=7.9, J=1.1); 8.35 s (1H, HC═N); 8.71 d,d,d (1H, H(6) 3J5,6=4.9, 4J4,6=1.6, 5J3,6=1.0). 13C NMR, DEPT (50 MHz; CDCl3; δ, ppm): 18.3 (CH3), 121.2 (C(3)H), 124.0 (C(4′)H), 125.3 (C(5)H), 126.8 (C(2′,6′)), 128.1 (C(3′,5′)H), 136.7 (C(4)H), 149.6 (C(6)H), 150.3 (C(1′)), 154.4 (C(2)), 163.4 (HC═N).

reactant | 2-pyridine-carboxaldehyde | 0.1 mole, 10 ml | N1=C(C=CC=C1)C=O | C6H5NO
reactant | 2,6-dimethylaniline | 0.1 mole, 12.9 ml | CC1=C(N)C(=CC=C1)C | C8H11N
catalyst | formic acid | 3 drops | C(=O)O | CH2O2
solvent | methanol | 30 ml | CO | CH4O
product | 2-(N-(2,6-dimethylphenyl)-iminomethyl)-pyridine | CC1=C(C(=CC=C1)C)N=CC1=NC=CC=C1 | C14H14N2
